US04795486
3.42 g of 6-amino-4-methyl-3-methylthio-1,2,4-triazin-5-one are suspended in 100 ml of absolute dioxane, and 4.99 g of 2-methoxycarbonylphenylsulfonyl isocyanate are added at room temperature. The reaction proceeds slightly exothermically. After a reaction time of one hour at room temperature, the reaction has ended. The precipitate which has separated out is filtered off and washed with a small amount of dioxane. After drying, 6.0 g of 6-[3-(2-methoxycarbonylphenylsulfonyl)-ureido]-4-methyl-3-methylthio-1,2,4-triazin-5-one with a melting point of 186°-187° C. are thus obtained.

reactant | 6-amino-4-methyl-3-methylthio-1,2,4-triazin-5-one | 3.42 g | NC=1C(N(C(=NN1)SC)C)=O | C5H8N4OS
reactant | 2-methoxycarbonylphenylsulfonyl isocyanate | 4.99 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 6-[3-(2-methoxycarbonylphenylsulfonyl)-ureido]-4-methyl-3-methylthio-1,2,4-triazin-5-one | 6.0 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(NC=1C(N(C(=NN1)SC)C)=O)=O | C14H15N5O6S2
